US07645789B2
To a solution of ethyl 2-(1H-indol-2-yl)acetate (14.7 g, 72.2 mmol) in dichloromethane (150 mL) was added 4-dimethylaminopyridine (8.83 g, 72.2 mmol) and di-tert-butyl carbonate (23.7 g, 108 mmol) in portions. After stirring for 2 h at room temperature, the mixture was diluted with dichloromethane, washed with water, dried over magnesium sulfate and purified by silica gel chromatography (0 to 20% EtOAc in hexane) to give tert-butyl 2-((ethoxycarbonyl)methyl)-1H-indole-1-carboxylate (20.0 g, 91%).

reactant | ethyl 2-(1H-indol-2-yl)acetate | 72.2 mmol, 14.7 g | N1C(=CC2=CC=CC=C12)CC(=O)OCC | C12H13NO2
reactant | di-tert-butyl carbonate | 108 mmol, 23.7 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 72.2 mmol, 8.83 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 2-((ethoxycarbonyl)methyl)-1H-indole-1-carboxylate | 20.0 g, 91% | C(C)OC(=O)CC=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C17H21NO4
